US08629160B2
A mixture of 6-methoxypyridin-3-ylboronic acid (200 mg, 1.31 mmol), 3-ethylaniline (163 μl, 1.31 mmol), and 2-oxoacetic acid hydrate (120 mg, 1.31 mmol) in acetonitrile (20 ml) was stirred at room temperature overnight. The solvent was evaporated, and the crude product was purified by flash-chromatography (DCM/MeOH=9/1) to obtain 2-(3-ethylphenylamino)-2-(6-methoxypyridin-3-yl)acetic acid (265 mg, 70.8% yield).

reactant | 6-methoxypyridin-3-ylboronic acid | 1.31 mmol, 200 mg | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
reactant | 3-ethylaniline | 1.31 mmol, 163 μl | C(C)C=1C=C(N)C=CC1 | C8H11N
reactant | 2-oxoacetic acid hydrate | 1.31 mmol, 120 mg | O.O=CC(=O)O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(3-ethylphenylamino)-2-(6-methoxypyridin-3-yl)acetic acid | 265 mg, 70.8% yield | C(C)C=1C=C(C=CC1)NC(C(=O)O)C=1C=NC(=CC1)OC | C16H18N2O3
